US08802864B2
(4-[4-(1-benzofuran-5-yl)phenyl]-3-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-5-oxo-4,5-dihydro-1H-1,2,4-triazol-1-yl)acetic Acid
To a solution of 4-[4-(1-benzofuran-5-yl)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one (50 mg, 0.117 mmol) in N,N-dimethylformamide (1 mL) in a 5 mL microwaveable vial was added potassium carbonate (80 mg, 0.58 mmol, 5 eq) and tert-butylchloroacetate (21 mg, 0.14 mmol, 1.2 eq). The vial was capped, purged with nitrogen gas, and stirred for 16 h at 80° C. Analysis by LC/MS displayed the reaction was complete. The reaction mixture was cooled to room temperature and then poured into a mixture of dichloromethane and water. The organic layer was separated. The aqueous layer was washed with dichloromethane. The organic extractions were combined and washed 3× with a dilute brine solution. The organic layer was separated, dried over sodium sulfate, filtered, and concentrated in vacuo to afford the crude intermediate ester (MS(ES)+ m/e 487.3 [M+H]+). In a 50 mL round bottom flask, the crude 1,1-dimethylethyl (4-[4-(1-benzofuran-5-yl)phenyl]-3-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-5-oxo-4,5-dihydro-1H-1,2,4-triazol-1-yl)acetate was dissolved in 9 mL dichloromethane. Trifluoroacetic acid (1 mL, 12.98 mmol) was added to the solution, which was allowed to stir at room temperature for 16 h under a nitrogen bubbler. Analysis by LC/MS displayed the reaction complete. The reaction was concentrated to dryness and the residue was purified by reverse phase HPLC (LUNA C-18: 30×50 mm column; 10-75% acetonitrile w/0.1% TFA/water w/0.1% TFA). The product fractions were neutralized with the addition of saturated aq sodium bicarbonate, combined, and extracted with dichloromethane. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo to afford the title compound (32 mg, 56%). MS(ES)+ m/e 487.3 [M+H]+.

reactant | Trifluoroacetic acid | 12.98 mmol, 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1,1-dimethylethyl (4-[4-(1-benzofuran-5-yl)phenyl]-3-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-5-oxo-4,5-dihydro-1H-1,2,4-triazol-1-yl)acetate | O1C=CC2=C1C=CC(=C2)C2=CC=C(C=C2)N2C(=NN(C2=O)CC(=O)OC(C)(C)C)C[C@H]2CN(CC2)C(=O)C2CC2 | C31H34N4O5
solvent | dichloromethane | 9 mL | ClCCl | CH2Cl2
product | (4-[4-(1-benzofuran-5-yl)phenyl]-3-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-5-oxo-4,5-dihydro-1H-1,2,4-triazol-1-yl)acetic Acid | 32 mg, 56% | O1C=CC2=C1C=CC(=C2)C2=CC=C(C=C2)N2C(=NN(C2=O)CC(=O)O)C[C@H]2CN(CC2)C(=O)C2CC2 | C27H26N4O5
